Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Amoxicillin / Codeine / Latex
 
Attending: ___.
 
Chief Complaint:
GI bleed
.
 
Major Surgical or Invasive Procedure:
Hemodialysis
Percutaneous endoscopic gastrostomy tube placement
.
 
History of Present Illness:
___ yo male with ESRD on ___ HD, cardiomyopathy (EF ___, 
osteomyelitis who is transferred from ___ with 
guiac-positive stools, hematocrit 20.6 today down from baseline 
26 at end of ___.  
.  
Recent discharged from ___ on ___ after complicated 
admission notable for:  
1. MSSA paraspinal abscess, bacteremia, and L3-4 osteomyelitis 
now s/p L2-4 anterior/posterior spinal L2-4 fusion by Dr. 
___ currently on nafcillin followed by Dr. ___ ID, 
rifampin stopped ___ due to rising LFTs  
2. Enterobacter wound infection receiving ciprofloxacin  
3. AV fistula stenosis s/p dilatation and s/p ___ guided HD line 
placement  
4. Bilateral pleural effusions s/p thoracentesis and chest tube 
- ?due to CHF  
5. S/p ___ guided percutaneous abdominal fluid collect drainage - 
800cc bloody, cultures negative  
5. Malabsorptive diarrhea  
For additional details, please see ___ discharge summary.  
.  
Regarding his current presentation, the patient reports one 
episode of maroon-covered emesis yesterday, but none 
subsequently. Also noted to have black stools. No prior h/o 
bleeding. He recently had an NGT for nutritional supplementation 
that was removed last week. Also notes increased frequency of 
loose stools requiring rectal bag but no frank blood. Since 
rectal bag placement he has had no further BM.  
.  
In the ED, HD stable. NG lavage was negative and rectal exam w/ 
hemmorrhoids, brown stool that was guaiac positive. Attempted 
PIV but no access, has PICC in place. Transfused 1 unit pRBC. GI 
contacted and rec EGD in am, with plan for later c-scope as not 
sufficient time to prep and more likely upper source.  
.  
ROS: Denies abd pain, CP, SOB. Poor PO intake. Denies fevers, 
chills, sweats. No current back pain. +Insomnia.  
.  

 
Past Medical History:
1. ESRD of unknown etiology: s/p HD fistula LUE  
2. HTN  
3. CAD with positive stress test ___. Restless leg syndrome  
5. Psoriasis  
6. Anemia ___ ESRD  
7. Malabsorptive diarrhea
8. recent MSSA paraspinal abscess, bacteremia, and L3-4 
osteomyelitis now s/p L2-4 anterior/posterior spinal L2-4 
fusion, on nafcillin
9. Enterobacter wound infection, on cipro
.  

 
Social History:
___
Family History:
Father died of MI in ___ mother alive and well ___; 8 siblings, 
one of whom has HTN, one who has a cerebral aneurysm; he has no 
children.
.
 
Physical Exam:
T 98.1 HR 110/74 BP 96 RR 20 SaO2 100% RA  
General: malnurished male, NAD, breathing comfortably on RA  
HEENT: PERRL, EOMi, anicteric sclera  
Neck: supple, trachea midline, no thyromegaly or masses, no LAD  

Cardiac: RRR, s1s2 normal, no m/r/g, no JVD  
Pulmonary: CTAB anteriorally  
Abdomen: +BS, soft, nontender, scaphoid, no HSM, well-healed LLQ 
scar  
Extremities: warm, thin, no edema  
Back: redness over sacrum, well-healing surgical site on lumbar 
spine with sutures intact  
Neuro: A&Ox3, speech clear and logical, CNII-XII intact, moves 
all extremities but ___ weak bilaterally unchanged from prior per 
patient  
.  

 
Pertinent Results:
PERTINENT LABS:
___ 07:00PM BLOOD WBC-4.9 RBC-2.44* Hgb-7.7* Hct-23.7* 
MCV-97 MCH-31.6 MCHC-32.5 RDW-24.0* Plt ___
___ 05:45AM BLOOD WBC-5.2 RBC-2.83* Hgb-8.9* Hct-28.0* 
MCV-99* MCH-31.3 MCHC-31.7 RDW-23.8* Plt ___
___ 07:00PM BLOOD Neuts-72* Bands-0 ___ Monos-5 Eos-4 
Baso-1 ___ Myelos-0
___ 07:00PM BLOOD ___ PTT-44.9* ___
___ 04:00AM BLOOD ___
___ 05:45AM BLOOD ___
___ 07:00PM BLOOD Glucose-70 UreaN-38* Creat-2.5* Na-144 
K-4.3 Cl-109* HCO3-26 AnGap-13
___ 05:44AM BLOOD ALT-23 AST-39 LD(LDH)-353* AlkPhos-97 
TotBili-1.3
___ 05:44AM BLOOD Albumin-2.9* Calcium-9.0 Phos-3.5# Mg-2.0
___ 04:27AM BLOOD VitB12-1164*
___ 04:27AM BLOOD TSH-8.4*
___ 04:27AM BLOOD Free T4-0.51*
.
MICRO DATA:
STOOL C DIFF (___): negative
.
CXR (___): 
1) No change in the position of the left subclavian PICC line 
still terminating at the brachiocephalic/SVC after placement of 
a double-lumen left subclavian line. 
2) Stable moderate to severe bilateral pleural effusions. 
.  

 
Brief Hospital Course:
___ man with ESRD on HD, cardiomyopathy (EF ___, 
recent spine osteomyelitis currently on nafcillin presents with 
GI bleeding.  
.  
# Acute blood loss anemia: Likely upper source given black 
stools and maroon emesis. Possible etiology was NGT mechanical 
irritation. Two prior negative EGDs (last ___. No current 
active bleeding once he arrived at ___. Has chronic anemia ___ 
ESRD. Transfused 2 units early on during his hospitalization. 
Hct on admission was 23.7 and remained stable at 28 after being 
transfused. Had intermittently guaiac positive stools but no 
further hematemesis or melena. He was maintained on a PPI BID. 
GI evaluated the patient and deferred colonoscopy or EGD as an 
inpatient given the bleeding had stabilized. He will follow-up 
with GI as an outpatient.     
.  
# Poor nutritional status: Pt is severely cachectic with diffuse 
muscle wasting. Was getting TFs at rehab via NGT. Alb 1.9-->2.9 
from his previous admission to this admission. Nutrition was 
consulted and calorie counts revealed he was not meeting his 
goal caloric intake. PEG tube was placed and tube feeds 
initiated without incident.
.
# Hypoglycemia: Likely ___ low glycogen stores with decreased PO 
intake. Followed with q4 finger sticks and encouraged PO intake. 
Also made sure the patient took in complex carbs ___ 
crackers and peanut butter) every night to prevent nocturnal 
hypoglycemia. Fingersticks improved when tube feeds were 
initiated.
.
# ___ numbness/pain: Pt complained of numbness and tingling in 
his bilateral lower extremities. Likely peripheral neuropathy. 
DDx would also include hypothyroidism (TSH was 8) or due to his 
chronic illness. B12 was wnl. He was started on gabapentin 300mg 
qHS. This can be up-titrated as needed as an outpatient.
.
# MSSA paraspinal abscess, bacteremia, and L3-4 osteomyelitis 
now s/p L2-4 anterior/posterior spinal L2-4 fusion: MSSA at 
L2-4. Do not appear to be any new issues. Continue nafcillin for 
8 wk course per ID, followed by Dr. ___. Rifampin d/c'd on ___ 
due to increasing LFTs. Incision draining serosanguinous fluid 
but no evidence of infection. Continued TLSO brace when he is 
out of bed. Pain control with methadone and percocet. Seen by 
ortho spine while in house. Scheduled to follow-up with Dr. 
___ on ___ and sutures will be removed at that time.  
.  
# Diarrhea: H/o malabsorptive diarrhea, possibly lactose 
intolerance, currently has rectal tube. C. diff neg ___ 
yesterday. Once infectious cause was ruled out, he was 
re-started on loperamide. Continued lactose-free diet.   
.  
# Cardiomyopathy/Depressed EF: No active issues. Relatively new 
cardiomyopathy with an EF of ___ recently discovered, of 
unclear etiology. On last admission, pre-op stress MIBI showed 
no reversible perfusion defects making ischemia less likely and 
he was started on metoprolol and low dose lisinopril. Metoprolol 
and lisinopril were held initially in the setting of GI bleed 
and relatively low blood pressure. BB and ACEI were added back 
slowly as his BP tolerated. Lisinopril can be increased to his 
previous dose of 5mg daily as his BP allows. Fluid status was 
managed via HD.  
.  
# ESRD on HD: On MWF schedule, followed by Dr. ___. 
Continued nephrocaps, phoslo and epogen with HD. Continued on 
regular HD schedule. During this admission he was successfully 
dialyzed through his AV fistula using a small gauge needles (16 
gg). Should have tunneled HD catheter removed by ___ in one week 
if access via fistula is stable.   
.  
# CODE: FULL (confirmed)   
.  

 
Medications on Admission:
lactinex tab daily  
vitamin c 500mg daily  
25% albumin QHD  
phoslo 667mg tid  
cipro 250mg dialy (stop date ___  
darbepoetin 200mcg QHD  
heparin sc bid  
lisinopril 5mg daily  
loperamide 2mg tid  
metamucil daily  
methadone 5mg tid  
lopressor 37.5mg tid  
miracle cream  
mirtazapine 15mg qhs  
nafcillin 2mg q4h  
opium tincture 7 drops bid  
k-dur 40meq daily  
benprotein 1 scoop tid  
zantac 150mg daily  
tylenol prn  
albuterol nebs prn  
asprin 325 mg prn  
bisacodyl prn  
cepacol prn  
dilaudid ___ q4h prn  
loperamide 2mg q2h prn  
ativan 0.5mg q8h prn  
MOM 30ml daily prn  
nitro sl 0.4mg prn  
zofran 4mg iv prn  
.  

 
Discharge Medications:
1. Ascorbic Acid ___ mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
2. PhosLo 667 mg Capsule Sig: One (1) Capsule PO once a day.  
3. Ciprofloxacin 500 mg Tablet Sig: One (1) Tablet PO Q24H 
(every 24 hours): stop date ___.  
4. Lisinopril 5 mg Tablet Sig: 0.5 Tablet PO DAILY (Daily).  
5. Loperamide 2 mg Capsule Sig: One (1) Capsule PO TID (3 times 
a day) as needed.  
6. Lactinex     Tablet, Chewable Sig: One (1) Tablet, Chewable 
PO twice a day.  
7. Methadone 5 mg Tablet Sig: One (1) Tablet PO TID (3 times a 
day).  
8. Metoprolol Tartrate 25 mg Tablet Sig: 1.5 Tablets PO TID (3 
times a day).  
9. miracle cream  Sig: One (1)   once a day: apply once daily to 
sacral area.  
10. Mirtazapine 15 mg Tablet Sig: One (1) Tablet PO HS (at 
bedtime).  
11. Nafcillin in D2.4W 2 gram/100 mL Piggyback Sig: One (1)  
Intravenous Q4H (every 4 hours).  
12. Opium Tincture 10 mg/mL Tincture Sig: Seven (7) drops PO 
twice a day.  
13. K-Dur 20 mEq Tab Sust.Rel. Particle/Crystal Sig: Two (2) Tab 
Sust.Rel. Particle/Crystal PO once a day.  
14. benprotein  Sig: One (1) scoop  three times a day.  
15. Pantoprazole 40 mg Tablet, Delayed Release (E.C.) Sig: One 
(1) Tablet, Delayed Release (E.C.) PO Q12H (every 12 hours).  
16. Acetaminophen 325 mg Tablet Sig: ___ Tablets PO Q6H (every 6 
hours) as needed.  
17. Albuterol Sulfate 2.5 mg /3 mL (0.083 %) Solution for 
Nebulization Sig: One (1)  Inhalation Q6H (every 6 hours) as 
needed.  
18. Hydromorphone 2 mg Tablet Sig: ___ Tablet PO Q4H (every 4 
hours) as needed for pain.  
19. Lorazepam 0.5 mg Tablet Sig: One (1) Tablet PO Q8H (every 8 
hours) as needed for anxiety.  
20. Ondansetron HCl (PF) 4 mg/2 mL Solution Sig: One (1)  
Injection Q8H (every 8 hours) as needed for nausea.  
21. Gabapentin 300 mg Capsule Sig: One (1) Capsule PO HS (at 
bedtime).  
22. B Complex-Vitamin C-Folic Acid 1 mg Capsule Sig: One (1) Cap 
PO DAILY (Daily).  
23. Levothyroxine 50 mcg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
.
 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Primary: Lower GI bleed
.
Secondary:
ESRD on HD
Hypertension
CAD
Psoriasis
Anemia ___ ESRD
.
 
Discharge Condition:
Vitals stable. Hematocrit stable.
.
 
Discharge Instructions:
You were admitted to the hospital for evaluation of lower GI 
bleeding and drop in your blood count. This bleeding stopped on 
its own. You continue to have diarrhea, which is a chronic 
problem for you and will require further outpatient evaluation. 
In addition, you had a feeding tube placed, called a "PEG" tube, 
which will give you extra nutrition to strengthen  your body.
.
Follow-up as below.
.
Take all medications as prescribed. No changes have been made to 
your medication regimen while in the hospital.
.
If you notice bright red blood from your rectum, vomiting of 
blood or coffee grounds like material, fevers > 101, difficulty 
with your feeding tube, or other symptoms that are concerning to 
you, you should call your doctor or go to the nearest emergency 
room.
.
 
Followup Instructions:
___